data/oMe_Silver.jsonl
{"reaction_id": "NR-315_1-c1ccccc1_2-C1CC(O[Si](C)(C)C)CCC1","level": "hard","name": "Van Leusen Reaction","reactants_smiles": ["C(=O)(c1ccccc1)(C1CC(O[Si](C)(C)C)CCC1)","Cc1ccc(cc1)S(=O)(=O)C[N+]#[C-]","CC(C)(C)[O-]"],"products_smiles": ["C(C#N)(c1ccccc1)(C1CC(O[Si](C)(C)C)CCC1)"],"conditions": "t-BuOK","mechanism_step_nums": 9,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "Cc1ccc(cc1)S(=O)(=O)[CH-][N+]#[C-]","step_weight": 0,"rationale": "t-BuOK deprotonates the acidic methylene of TosMIC due to resonance stabilization by the sulfone and isonitrile groups, generating a strong nucleophile."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "Cc1ccc(cc1)S(=O)(=O)C([N+]#[C-])C([O-])(c1ccccc1)(C1CC(O[Si](C)(C)C)CCC1)","step_weight": 0,"rationale": "The carbanion attacks the electrophilic carbonyl carbon of c1ccccc1C(=O)C1CC(O[Si](C)(C)C)CCC1, driven by polarization of the C=O bond and the high nucleophilicity of the TosMIC anion."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "Cc1ccc(cc1)S(=O)(=O)C1N=[C-]OC1(c1ccccc1)(C1CC(O[Si](C)(C)C)CCC1)","step_weight": 0,"rationale": "Intramolecular cyclization occurs as the alkoxide attacks the isonitrile carbon, favored by proximity and relief of charge through formation of a five-membered oxazoline ring."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "Cc1ccc(cc1)S(=O)(=O)[C-]1N=COC1(c1ccccc1)(C1CC(O[Si](C)(C)C)CCC1)","step_weight": 0,"rationale": "Base deprotonates the oxazoline methylene, increasing electron density and preparing for elimination by generating a carbanion adjacent to the sulfone."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "Cc1ccc(cc1)S(=O)(=O)C(N=C[O-])=C(c1ccccc1)(C1CC(O[Si](C)(C)C)CCC1)","step_weight": 0,"rationale": "Elimination of the tosylate group occurs because the sulfone-stabilized anion is a good leaving group, driven by formation of a conjugated imidate system."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C=NC=O)(c1ccccc1)(C1CC(O[Si](C)(C)C)CCC1)","step_weight": 0,"rationale": "Further elimination expels the oxygen-containing fragment, driven by the stability of the resulting cumulene-like C=C=NC=O system."},{"step": 7,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=C=NC([O-])OC(C)(C)C)(c1ccccc1)(C1CC(O[Si](C)(C)C)CCC1)","step_weight": 0,"rationale": "Nucleophilic attack by t-BuO− on the carbonyl carbon of the isocyanate intermediate occurs due to high electrophilicity and strong basicity of t-BuO−."},{"step": 8,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C=[N-])(c1ccccc1)(C1CC(O[Si](C)(C)C)CCC1)","step_weight": 0,"rationale": "Elimination of t-BuO− from the adduct forms the nitrile anion, favored by the thermodynamic stability of the C≡N triple bond."},{"step": 9,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C#N)(c1ccccc1)(C1CC(O[Si](C)(C)C)CCC1)","step_weight": 0,"rationale": "Protonation of the nitrile anion by solvent or conjugate acid yields the neutral nitrile product, driven by the strong basicity of the anion."}],"description": "Under strong basic conditions (t-BuOK), the Van Leusen reaction proceeds via deprotonation of the TosMIC methylene, nucleophilic addition to the carbonyl, cyclization to an oxazoline intermediate, and sequential eliminations to form the nitrile product. The base promotes each step by generating reactive anions and facilitating leaving group departure."}
